US08580777B2
E. tert-Butyl ((8S,11R)-8-isopropyl-3,10-dioxo-6-oxa-2,9-diazabicyclo[11.2.2]heptadeca-1(16),13(17),14-trien-11-yl)carbamate
The 3-{(S)-2-[(R)-3-(4-aminophenyl)-2-tert-butoxycarbonylaminopropionylamino]-3-methylbutoxy}propionic acid (˜225 mg) obtained as crude product in 7-1 D was dissolved in 225 ml of DMF. 70.0 mg (0.51 mmol) of HOAt, 0.26 ml (1.5 mmol) of N,N-diisopropylethylamine and 195.4 mg (0.51 mmol) of HATU were successively added to this solution, and the mixture was stirred at room temp. for 1 h. The reaction mixture was concentrated in vacuo. The residue obtained in this way was taken up in CH2Cl2, washed with sat. NaHCO3 solution, dried over MgSO4 and freed of solvent in vacuo. The ring-closed compound obtained in this way was employed crude in the next stage. Yield: 215.0 mg.

reactant | 3-{(S)-2-[(R)-3-(4-aminophenyl)-2-tert-butoxycarbonylaminopropionylamino]-3-methylbutoxy}propionic acid | ˜225 mg | NC1=CC=C(C=C1)C[C@H](C(=O)N[C@H](COCCC(=O)O)C(C)C)NC(=O)OC(C)(C)C | C22H35N3O6
reactant | HOAt | 0.51 mmol, 70.0 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N,N-diisopropylethylamine | 1.5 mmol, 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.51 mmol, 195.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 225 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl ((8S,11R)-8-isopropyl-3,10-dioxo-6-oxa-2,9-diazabicyclo[11.2.2]heptadeca-1(16),13(17),14-trien-11-yl)carbamate | C(C)(C)[C@H]1COCCC(NC=2C=CC(C[C@H](C(N1)=O)NC(OC(C)(C)C)=O)=CC2)=O | C22H33N3O5
